US05736539
4-Benzyl-1-tert-butoxycarbonyl-2(S)-(3-methoxy-1-propyl)piperazine
The title compound was prepared according to the procedure described in Example 7, Step C, except using 4-benzyl-1-tert-butoxycarbonyl-2(S)-(3-hydroxy-1-propyl)piperazine (1.02 g, 3.05 mmol), sodium hydride (0.183 g, 60% dispersion in oil, 4.58 mmol), and methyl iodide (0.247 mL, 3.97 mmol) in DMF (6 mL). The crude product was chromatographed on silica gel with 30% ethyl acetate in hexane to obtain the title compound as a clear oil (0.870 g). NMR (CDCl3, 300 MHz) δ 7.3 (5H, m), 4.05 (1H, m), 3.85 (1H, m), 3.46 (2H, AB q, J=12 Hz, D n=42 Hz), 3.39 (1H, m), 3.22 (3H, s), 3.04 (1H, t, J=13 Hz), 2.74 (1H, d, J=12 Hz), 2.66 (1H, d, J=12 Hz), 1.45-2.12 (7H, m), 1.44 (9H, s).

reactant | 4-benzyl-1-tert-butoxycarbonyl-2(S)-(3-hydroxy-1-propyl)piperazine | 3.05 mmol, 1.02 g | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CCCO | C19H30N2O3
reactant | sodium hydride | 4.58 mmol, 0.183 g | [H-].[Na+]
reactant | methyl iodide | 3.97 mmol, 0.247 mL | CI | CH3I
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | 4-Benzyl-1-tert-butoxycarbonyl-2(S)-(3-methoxy-1-propyl)piperazine | 0.870 g | C(C1=CC=CC=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)CCCOC | C20H32N2O3
